US04009275
A mixture of 3.3 g of 2-(3-chloropropoxy)-5-fluorochlorobenzene, 3.3 g of 1-(4-piperidinyl)-2-oxobenzimidazoline, 0.9 g of sodium carbonate and 80 ml of dimethylformamide was heated at 80° - 90° C for 15 hours. After cooling, the reaction mixture was poured into water and extracted with benzene. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was triturated with ether, cooled and filtered to give 1-{3-(2-chloro-4-fluorophenoxy)propyl}-4-(2-oxo-1-benzimidazolinyl)piperidine, m.p. 130° - 132° C; recrystallized from benzenecyclohexane, m.p. 149° - 149.5° C.

reactant | 2-(3-chloropropoxy)-5-fluorochlorobenzene | 3.3 g | ClCCCOC1=C(C=C(C=C1)F)Cl | C9H9Cl2FO
reactant | 1-(4-piperidinyl)-2-oxobenzimidazoline | 3.3 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | sodium carbonate | 0.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-{3-(2-chloro-4-fluorophenoxy)propyl}-4-(2-oxo-1-benzimidazolinyl)piperidine | ClC1=C(OCCCN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C=CC(=C1)F | C21H23ClFN3O2
